US08138345B2
Preparation of 5-[(R)-2-{(R)-2-[3-(2-Aminoethyl)phenyl]-1-methylethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one
A solution of [2-(3-{(R)-2-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)ethyl]carbamic acid tert-butyl ester (2.8 g) in 20% trifluoroacetic acid in DCM was stirred at room temperature for 3 h. Saturated aqueous sodium bicarbonate solution was added to neutralize the TFA and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound, which was used without further purification.

reactant | [2-(3-{(R)-2-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)ethyl]carbamic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)C[C@@H](C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)=O | C40H55N3O5Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-[(R)-2-{(R)-2-[3-(2-Aminoethyl)phenyl]-1-methylethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | NCCC=1C=C(C=CC1)C[C@@H](C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C35H47N3O3Si
